US05500427
b) Ethyl 4-chloropyrimidine-5-carboxylate
To a mixture of ethyl 3,4-dihydro-4-oxopyrimidine-5-carboxylate (3.54 g) (synthesized according to the method reported by A. R. Todd and F. Bergel on J. Chem. Soc., 364 (1937)) and triethylamine (2.13 g) was added dropwise under ice-cooling phosphorus oxychloride (21 ml), and the mixture was then heated for 1.5 hour under reflux. The reaction mixture was concentrated to dryness, which was poured into ice-water, followed by partitioning between chloroform and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and then dried. The solvent was distilled under reduced pressure. The residue was purified by column chromatography on silica gel to afford the title compound as a pale yellow oil (3.42 g, 86%).

reactant | ethyl 3,4-dihydro-4-oxopyrimidine-5-carboxylate | 3.54 g | O=C1NC=NC=C1C(=O)OCC | C7H8N2O3
reactant | phosphorus oxychloride | 21 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | triethylamine | 2.13 g | C(C)N(CC)CC | C6H15N
product | Ethyl 4-chloropyrimidine-5-carboxylate | 3.42 g, 86% | ClC1=NC=NC=C1C(=O)OCC | C7H7ClN2O2
